US04307116
A solution of p-toluenesulphonic acid hydrate (3.49 g) in acetonitrile (25 cc) is added dropwise, in the course of 25 minutes, to a solution, at 35° C., of 2-benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (E-form) (6.1 g) in acetonitrile (75 cc). The mixture is stirred for 45 minutes at 35° C. and is then poured into a saturated sodium bicarbonate solution (500 cc). After 30 minutes' contact, with stirring, the mixture is extracted with ethyl acetate (500 cc) and the organic phase is washed with water (100 cc), dried over sodium sulphate, filtered and concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa). 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (E-form) (4.7 g) is obtained in the form of a brown froth.

reactant | p-toluenesulphonic acid hydrate | 3.49 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 6.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=COS(=O)(=O)C1=CC=C(C)C=C1)NC(=O)OC(C)(C)C)=O | C34H34N2O8S2
reactant | sodium bicarbonate | 500 cc | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 25 cc | C(C)#N | C2H3N
solvent | acetonitrile | 75 cc | C(C)#N | C2H3N
product | 7-Amino-2-benzhydryloxycarbonyl-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 4.7 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=COS(=O)(=O)C1=CC=C(C)C=C1 | C29H26N2O6S2
